US05086178
Sodium tetrafluoroborate (1.97 g, 17.9 mmol) in dry acetonitrile (20 cm3) was run slowly into a stirred slurry of 1-chloromethyl-4-aza-1-azoniabicyclo[2,2,2]-octane chloride (3.53 g, 17.9 mmol) (a known compound, see B. Almarzogi et al., Tetrahedron, 1986, 42, 601) in the same solvent (20 cm3) at ambient temperature under an atmosphere of dry nitrogen. After being stirred overnight, the reaction mixture was filtered to remove lithium chloride which had precipitated. The precipitate was washed with dry acetonitrile (20 cm3) and the washings plus the filtrate were evaporated to provide slightly impure (according to n.m.r. analysis) and very pale yellow 1-chloromethyl-4-aza-1-azoniabicyclo [2.2.2]octane tetrafluoroborate (3.75 g, 15.1 mmol, 84%) [δF (solution in D2O; ext. CF3CO2H ref.) -74.3 (s; BF4-) p.p.m., δH (same soln.) 3.29 (m; 3×CH2), 3.57 (m; 3 ×CH2), 5.11 (s; CH2Cl) p.p.m. (residual H in D2O, 4.75 p.p.m.)]. Recrystallisation of a small quantity of this product from an ethanol-diethyl ether mixture gave a pure white sample, m.p. 152° C., which appeared to be non-hygroscopic.

reactant | Sodium tetrafluoroborate | 17.9 mmol, 1.97 g | F[B-](F)(F)F.[Na+]
reactant | 1-chloromethyl-4-aza-1-azoniabicyclo[2,2,2]-octane chloride | 17.9 mmol, 3.53 g | [Cl-].ClC[N+]12CCN(CC1)CC2
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
product | 1-chloromethyl-4-aza-1-azoniabicyclo [2.2.2]octane tetrafluoroborate | 15.1 mmol, 3.75 g, 84% | F[B-](F)(F)F.ClC[N+]12CCN(CC1)CC2 | InChI=1S/C7H14ClN2.BF4/c8-7-10-4-1-9(2-5-10)3-6-10;2-1(3,4)5/h1-7H2;/q+1;-1
